US06063782
7-(3-Fluorobenzyloxy)-2,3-dimethyl-1-(2-propenyl)pyrrolo[2,3-d]pyridazine
The title compound was prepared as white cottony crystals in 71.4% yield in a similar procedure to that described in Example 1 by using 7-chloro-2,3-dimethyl-1-(2-propenyl)pyrrolo[2,3-d]pyridazine and 3-fluorobenzyl alcohol.

reactant | 7-chloro-2,3-dimethyl-1-(2-propenyl)pyrrolo[2,3-d]pyridazine | ClC=1N=NC=C2C1N(C(=C2C)C)CC=C | C11H12ClN3
reactant | 3-fluorobenzyl alcohol | FC=1C=C(CO)C=CC1 | C7H7FO
product | 7-(3-Fluorobenzyloxy)-2,3-dimethyl-1-(2-propenyl)pyrrolo[2,3-d]pyridazine | 71.4% yield | FC=1C=C(COC=2N=NC=C3C2N(C(=C3C)C)CC=C)C=CC1 | C18H18FN3O
